### PR TITLE
[Merged by Bors] - chore(AtTopBot/Group): use `@[to_additive]`

### PR DESCRIPTION
**Pull request by urkud**
---

I verified that no declaration disappeared by writing a simple (and ~very show~) script that prints all names in the environment, then running `diff` on two outputs.

UPD: the script was slow because of `#eval`. Turning it into a proper executable made it run in 4s.
See https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Lean-based.20.22changed.20names.22.20script.3F/with/505878898 and https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/What's.20the.20right.20way.20to.20print.20lots.20of.20lines.3F/with/505878407

- [x] depends on: #22468

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Group/Abs.lean [hunk 1]
```diff
@@ -56,21 +56,25 @@ variable [LinearOrderedCommGroup α] {a b : α}
   · exact mabs_mul_eq_mul_mabs_le ab
   · simpa only [mul_comm, and_comm] using mabs_mul_eq_mul_mabs_le ab
 
-end LinearOrderedCommGroup
+@[to_additive]
+theorem mabs_le : |a|ₘ ≤ b ↔ b⁻¹ ≤ a ∧ a ≤ b := by rw [mabs_le', and_comm, inv_le']
```
Comment (urkud) [inline Mathlib/Algebra/Order/Group/Abs.lean:60]: I added multiplicative versions of these lemmas, because one of them is used in the `AtTopBot/Group` file. We should do the same to the whole section below, but I consider this to be out of the scope of this PR.

**Review by pechersky — APPROVED** [review]
LGTM. Thanks for coming up with the script to check declaration presence.

File: Mathlib/Order/Filter/AtTopBot/Group.lean [hunk 2]
```diff
@@ -13,115 +13,135 @@ import Mathlib.Order.Filter.AtTopBot.Monoid
...
-section LinearOrderedAddCommGroup
+section LinearOrderedCommGroup
 
-variable [LinearOrderedAddCommGroup α]
+variable [LinearOrderedCommGroup G]
 
 /-- $\lim_{x\to+\infty}|x|=+\infty$ -/
-theorem tendsto_abs_atTop_atTop : Tendsto (abs : α → α) atTop atTop :=
-  tendsto_atTop_mono le_abs_self tendsto_id
+@[to_additive]
```
Comment (bryangingechen) [inline Mathlib/Order/Filter/AtTopBot/Group.lean:126]: Here and below, should we copy the docstrings to the additive declaration as well?

Otherwise LGTM. Feel free to merge.
Thanks!
bors d+
